US08623859B2
N-{4-[(3-Hydroxyazetidin-1-yl)methyl]benzyl}-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methylfuran-3-carboxamide
The title compound was prepared according to general procedure BH using 5-{[(4-methoxy-2,6-dimethyl-benzenesulfonyl)-methyl-amino]-methyl}-furan-3-carboxylic acid (35 mg, 0.10 mmol), EDCI (27 mg, 0.14 mmol), HOBt (20 mg, 0.15 mmol), DIPEA (0.04 mL, 0.20 mmol), 1-(4-methylaminomethyl-benzyl)-azetidin-3-ol hydrochloride (29 mg, 0.11 mmol) and DCM (10 mL).

reactant | 5-{[(4-methoxy-2,6-dimethyl-benzenesulfonyl)-methyl-amino]-methyl}-furan-3-carboxylic acid | 0.10 mmol, 35 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | EDCI | 0.14 mmol, 27 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.15 mmol, 20 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.20 mmol, 0.04 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(4-methylaminomethyl-benzyl)-azetidin-3-ol hydrochloride | 0.11 mmol, 29 mg | Cl.CNCC1=CC=C(CN2CC(C2)O)C=C1
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-{4-[(3-Hydroxyazetidin-1-yl)methyl]benzyl}-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methylfuran-3-carboxamide | OC1CN(C1)CC1=CC=C(CN(C(=O)C2=COC(=C2)CN(C)S(=O)(=O)C2=C(C=C(C=C2C)OC)C)C)C=C1 | C28H35N3O6S
